US07361677B2
4-[(3-Chloro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02130, STX447)
Palladium on charcoal (50 mg, 10% Pd) was added to a solution of 4-[(4-benzyloxy-3-chloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02129, 1.04 g, 2.50 mmol) in MeOH/THF/EtOAc (25 mL/25 mL/25 mL). The mixture was stirred under hydrogen atmosphere (balloon) for 18 hours at room temperature. The reaction mixture was filtered through celite and the clear colourless filtrate was concentrated under reduced pressure. The residue was suspended in 2-propanol (20 mL) and heated to reflux for 5 minutes. The white solid was filtered off after cooling to room temperature and dried under high vacuum. Yield: 484 mg (59%). 1H-NMR (400 MHz, d6-DMSO) δ=4.93 (s, 2H), 6.76 (d, J=9.0 Hz, 2H), 6.86 (d, J=8.6 Hz, 1H), 7.02 (dd, J=8.2, 2.0 Hz, 1H), 7.27 (d, J=2.0 Hz, 1H), 7.76 (d, J=9.0 Hz, 2H), 8.77 (s, 2H), 10.29 (s, 1H, —OH). 13C-NMR (100 MHz, d6-DMSO) δ=56.87, 103.55, 114.48, 117.28, 119.73, 120.25, 126.72, 129.19, 130.91, 134.56, 144.02, 152.03, 153.50. LRMS (FAB+): 325.0 (100, [M+H]+).

reactant | 4-[(4-benzyloxy-3-chloro-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 2.50 mmol, 1.04 g | C(C1=CC=CC=C1)OC1=C(C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=C1)Cl | C23H18ClN5O
catalyst | Palladium on charcoal | 50 mg | [Pd] | Pd
solvent | MeOH THF EtOAc | 25 mL | CO.C1CCOC1.CCOC(=O)C
product | 4-[(3-Chloro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | ClC=1C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=CC1O | C16H12ClN5O
